Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
___ yo G2P1 at 26w2d transferred to OB Triage from the ED.
She initially presented to ___ after having
worsening pruritus for ___ days. 
 
Major Surgical or Invasive Procedure:
Liver biopsy

 
History of Present Illness:
HPI: Pt is a ___ G2P1 at 26w2d who is admitted to the 
___
service with elevated LFTs. She reports a two-day history of
diffuse pruritus and jaundice. Pruritus was so severe that she
was unable to sleep. She found no relief from Benadryl, Tylenol
___, oatmeal baths, or topical hydrocortisone cream. She could 
not
find a rash, and when she had her mother search her skin, her
mother first noticed scleral icterus. She denies any history of
liver disease, or any abdominal pain, nausea, vomiting, fevers,
chills, or myalgias. She denies any change in color of her
stools, hematochezia, or melena, but does note that her urine is
now the color of ___. She has never had symptoms like this
before, although she does give a history of mildly elevated 
LFTs,
maybe ___ years ago, which on recheck were reportedly normal last
year.

She has a history of poly-substance abuse, including IV drug 
use,
although she acknowledges only a single use of IV heroin. She
does acknowledge other heroin use, intranasally, twice
previously. She denies any history of intranasal cocaine use. 
She
has previously abused narcotic pain medications, but has been on
methadone for the last six months since she has known about her
pregnancy, and has not used any drugs including tobacco, EtOH,
and narcotics. She denies any tattoos or piercinges (apart from
her earlobes bilaterally), and no history of blood transfusions.
She has not been sexually active recently as her husband has 
been
away from home, travelling to ___ for business. She denies any
herbs, supplements, or OTC medications apart from Tylenol ___ and
Benadryl. Regarding the Tylenol ___, she states that she took two
tablets two days ago without any relief, and took two tablets
yesterday prior to coming to the ED. She does note using an
oatmeal-based bath for her pruritus that she purchased from a
nutritional supplement store. She also acknowledges having eaten
out a number of times during her pregnancy, especially in recent
weeks during the ___. These include sushi ___ roll,
denies any uncooked fish), cold cuts (including ___, ham, and
___ cheese), fruit salad from an outdoor fair, and others. She
also does acknowledge prior hypertension during this pregnancy,
about one month ago, when she was advised to "keep an eye on 
it",
so she has been checking herself at ___. She notes that her 
worst
BPs have been as high as 190/90.

She did have some vomiting and diarrhea this morning, which she
attributes to withdrawing from her methadone as she did not
receive this morning's dose at the usual time of her home
schedule, and since receiving it these symptoms have resolved.

She was reportedly seen first at an OSH ED prior to transfer to 
our ED
given her elevated LFTs, but these records were reportedly "lost
on the way" and are unavailable for review currently.

 
Past Medical History:
PAST MEDICAL HISTORY:
- Poly-substance abuse (tobacco, narcotic pain medications)
- Anxiety
- Upper extremity DVT
- s/p C-section
- denies H/O abn pap's/STI's
 
Social History:
___
Family History:
FAMILY HISTORY: Pt acknowledges that her uncle/grandfather
suffered from liver disease of unknown type. Denies any other
liver or GI disease in the family.

 
Physical Exam:
At the time of admission:
PHYSICAL EXAM:
VS: Temp 97.4F, BP 114/70, HR 88, R 18, SaO2 100% RA
General: WA young woman in NAD, comfortable, appropriate, 
itching
diffusely
HEENT: NC/AT, PERRL/EOMI, + scleral icterus, MMM
Neck: supple, no LAD or thyromegaly
Lungs: CTA bilat, no r/rh/wh
Heart: RRR, nl S1-S2, no MRG
Abdomen: +BS, soft/NT, gravid, no HSM
Extrem: WWP, trace BLE edema
Skin: + mild jaundice, no stigmata of chronic liver disease
Neuro: no confusion or asterixis, normal gait

# of Fetuses: 1
Cardiac activity?: Y
FHR: 123 BPM
Presentation:Cephalic 
Placenta:    Posterior no previa
AFI: 13.2 cm    
EFW: 1038 g
Percentile: 58.5 % by ___

___

 
Pertinent Results:
******PENDING LABS AT DISCHARGE************

___ 11:55PM BLOOD BILE ACIDS-PND
___ 09:45AM BLOOD SOLUBLE LIVER ANTIGEN (SLA) 
ANTIBODIES-PND
___ 06:20AM BLOOD HEPATITIS C VIRAL RNA, GENOTYPE-PND

___ 04:05PM   HIV Ab-NEGATIVE
___ 10:11AM URINE  opiates-NEG cocaine-NEG amphetmn-NEG
___ 09:45AM   ALT(SGPT)-661* AST(SGOT)-1003* LD(LDH)-227 
CK(CPK)-20* ALK PHOS-116* TOT BILI-8.6* DIR BILI-6.9* INDIR 
BIL-1.7
___ 09:45AM   TSH-0.64
___ 09:45AM   HBsAg-NEGATIVE HBc Ab-NEGATIVE IgM 
HBc-NEGATIVE
___ 09:45AM   AMA-NEGATIVE Smooth-NEGATIVE ANCA-NEGATIVE B
___ 09:45AM   ___
___ 09:45AM   WBC-9.5 RBC-4.21 HGB-10.5* HCT-33.0* MCV-78* 
MCH-24.8* MCHC-31.7 RDW-16.0*
___ 09:45AM   PLT COUNT-236
___ 09:45AM   ___ PTT-33.1 ___
___ 09:45AM   ___
___ 09:42AM   ASA-NEG ETHANOL-NEG bnzodzpn-NEG barbitrt-NEG 
tricyclic-NEG
___ 03:00AM URINE  COLOR-AMB APPEAR-Hazy SP ___
___ 03:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-LG UROBILNGN-2* PH-6.0 LEUK-NEG
___ 03:00AM URINE  RBC-7* WBC-27* BACTERIA-FEW YEAST-NONE 
EPI-5
___ 03:00AM URINE  GRANULAR-6* HYALINE-13*
___ 03:00AM URINE  MUCOUS-RARE

___ 11:55PM   HCV Ab-POSITIVE*
___ 11:55PM   HBs Ab-NEGATIVE IgM HAV-NEGATIVE

___ 06:20AM BLOOD WBC-8.5 RBC-3.78* Hgb-9.7* Hct-29.7* 
MCV-79* MCH-25.6* MCHC-32.6 RDW-16.8* Plt ___
___ 09:45AM BLOOD WBC-9.5 RBC-4.21 Hgb-10.5* Hct-33.0* 
MCV-78* MCH-24.8* MCHC-31.7 RDW-16.0* Plt ___
___ 11:55PM BLOOD WBC-12.1* RBC-4.37 Hgb-10.9* Hct-33.7* 
MCV-77* MCH-24.9* MCHC-32.3 RDW-16.6* Plt ___
___ 11:55PM BLOOD Neuts-67.8 ___ Monos-5.3 Eos-1.7 
Baso-0.4

___ 11:55PM BLOOD ___ PTT-34.7 ___
___ 09:45AM BLOOD ___ PTT-33.1 ___
___ 06:30AM BLOOD ___ PTT-32.2 ___
___ 06:05AM BLOOD ___ PTT-33.6 ___
___ 06:20AM BLOOD ___

___ 11:55PM BLOOD Glucose-102* UreaN-5* Creat-0.4 Na-136 
K-3.2* Cl-103 HCO3-24 AnGap-12
___ 11:55PM BLOOD ALT-683* AST-1178* AlkPhos-124* 
TotBili-8.5* DirBili-6.7* IndBili-1.8
___ 09:45AM BLOOD ALT-661* AST-1003* LD(LDH)-227 
CK(CPK)-20* AlkPhos-116* TotBili-8.6* DirBili-6.9* IndBili-1.7
___ 06:30AM BLOOD ALT-472* AST-584* LD(LDH)-182 
AlkPhos-106* TotBili-7.5* DirBili-6.1* IndBili-1.4
___ 06:20AM BLOOD ALT-330* AST-260* LD(LDH)-144 
TotBili-5.9* DirBili-4.6* IndBili-1.3
___ 06:05AM BLOOD ALT-212* AST-113* TotBili-4.6* 
DirBili-3.4* IndBili-1.2
___ 06:30AM BLOOD Albumin-2.9*
___ 06:05AM BLOOD Albumin-3.0*
___ 09:45AM BLOOD TSH-0.64

___ BPP

Indication: Abnormal LFT's, Methadone for prior substance use
# of Fetuses: 1
Cardiac activity?: Y
FHR: 130BPM
Presentation: []Cephalic []Breech [x]Other: Transverse
Placenta:     []Anterior [x]Posterior []Fundal
Previa?:      []Y  [x]N
AFI: DVP  7.3cm    [x]Normal []Oligo. []Poly.

BPP: Active Fetus

Impression:
1. Reassuring fetal testing. 

___ LIVER US
1. Normal liver echogenicity. No biliary duct dilatation. 
2. Limited Doppler due to breathing motion; however, normal flow 
is seen in main, left, and right portal vein, and main hepatic 
artery. Wall-to- wall flow in the hepatic veins. 
3. Unremarkable gallbladder with no evidence of cholelithiasis 
or 
cholecystitis. 

___ Liver, needle core biopsy:

1.  Marked portal and moderate periportal and lobular mixed 
inflammation with lobular disarray and numerous apoptotic 
hepatocytes.
2.  Moderate intrahepatic and canalicular cholestasis.
3.  No significant steatosis or ballooning degeneration are 
seen.
4.  Trichrome stain shows minimally increased portal fibrosis.
5.  Iron stain shows no stainable iron.
6.  Reticulin stain does not demonstrate significant hepatic 
parenchymal necrosis or collapse.
7.  Immunohistochemical stains for cytomegalovirus and herpes 
simplex viruses are pending and will be reported in an addendum.

Note: The features are compatible with a moderately active 
hepatitis with mixed inflammation, lobular disarray, feathery 
degeneration of hepatocytes, and moderate cholestasis.  The 
differential diagnosis includes an acute hepatitis of viral or 
drug-induced etiology.  Given the patient's negative autoimmune 
serologies and lack of prominent lobular plasmacytic component, 
an acute presentation of autoimmune hepatitis is less likely. 

ADDENDUM: 
Immunostains for cytomegalovirus and herpes simplex viruses I 
and II are negative with satisfactory controls.
Addendum added by: ___. ___
Date: ___

  

 
Brief Hospital Course:
The patient was admitted to the antepartum service from ___ 
to ___ for transaminitis, jaundice, pruritus with 
coagulopathy. A hepatology consultation was obtained. A liver 
ultrasound with dopplers showed no evidence of fibrosis or other 
abnormalities. The hepatology team was significantly impressed 
by the extent of liver injury and requested a biopsy of the 
liver. Pathology was consistent with acute hepatitis. 
Viral antibody studies were sent and these were signficant for a 
positive hepatitis C antibody. Her viral load was 54,700 copies. 
Patient was counseled about this new diagnosis and questions 
were answered. 
.
Her transamnitis began to resolves spontaneously and her INR 
normalized. Her only complaint of pruritis was managed with 
pepcid, atarax and actigall.
.
Fetal testing was reassuring. EFW ___ was 1038g, 58.5 percentile 
(___).
Patient had labs pending at discharge including bile salts, HEP 
C viral RNA genotype and soluble liver antibodies. 
.
___ need follow-up with Hepatology after discharge. She 
opted to see a specialist closer to her rather than following up 
with the ___ here. She will need assistance with the 
referral. She will need monthly LFTs and viral load every 3 
months. She will also need to discuss treatment options after 
postpartum.  She is aware that this will have to be set-up by 
her primary physicians.  Please help her coordinate this. 

 
Medications on Admission:
CURRENT MEDICATIONS:
- Methadone 145 mg PO/NG DAILY
- Mirtazapine 30 mg PO/NG DAILY
- Nephrocaps 1 CAP PO DAILY
- Docusate Sodium 100 mg PO BID:PRN Constipation
- Oxazepam ___ mg PO HS:PRN insomnia
- Calcium Carbonate 500 mg PO QID:PRN Dyspepsia
- Milk of Magnesia ___ ml PO Q6H:PRN Constipation

 
Discharge Medications:
1. Mirtazapine 30 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
3. Methadone 10 mg/mL Concentrate Sig: One Hundred ___ 
(145) mg PO DAILY (Daily).  
4. Hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pruritis.
Disp:*20 Tablet(s)* Refills:*0*
5. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).
Disp:*60 Tablet(s)* Refills:*0*
6. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hepatitis C
Abnormal liver enzymes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- It is important that you follow-up with your obstetrician as 
soon as possible to ensure you get the care you need.
- Please continue to take the atarax and pepcid as need and the 
actigall until your doctor tells you to stop. 
 
Followup Instructions:
___